US20010044435A1
1-benzyloxycarbonyl-4,4-bis-(2-hydroxyethyl)piperidine is prepared by reaction of 4,4-bis-(2-hydroxyethyl)piperidine with benzyl chloroformate in tetrahydrofuran in the presence of triethylamine.

reactant | 4,4-bis-(2-hydroxyethyl)piperidine | OCCC1(CCNCC1)CCO | C9H19NO2
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-benzyloxycarbonyl-4,4-bis-(2-hydroxyethyl)piperidine | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(CCO)CCO | C17H25NO4
